US08470851B2
3-((Trimethylsilyl)ethynyl)imidazo[1,2-a]pyridin-8-yl trifluoromethanesulfonate:
To a cooled (−78° C.) solution of 8-(hydroxy)-3-((trimethylsilyl)ethynyl)imidazo[1,2-a]pyridine (2.32 g, 10.1 mmol) and 1.63 mL (20.1 mmol) of pyridine in 50 mL of DCM, under an atmosphere of N2, was added 2.03 mL (12.1 mmol) of trifluoromethanesulfonic anhydride via syringe. Upon removing the cooling bath, the reaction solution was stirred at ambient temperature (N2) for 2 h. The reaction mixture was poured into a stirring solution of 100 mL 1.0N HCl, the layers separated, and the organic layer washed successively with 1.0N HCl, H2O, saturated aqueous NaHCO3, and brine. The organic layer was dried over Na2SO4 and concentrated. The crude product was filtered through a small plug of silica gel (eluted with 30% EtOAc/hexanes), concentrated, and further dried in vacuo to provide 3.63 g of product: 363 m/z (M+H).

reactant | 8-(hydroxy)-3-((trimethylsilyl)ethynyl)imidazo[1,2-a]pyridine | 10.1 mmol, 2.32 g | OC=1C=2N(C=CC1)C(=CN2)C#C[Si](C)(C)C | C12H14N2OSi
reactant | pyridine | 20.1 mmol, 1.63 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 12.1 mmol, 2.03 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 3-((Trimethylsilyl)ethynyl)imidazo[1,2-a]pyridin-8-yl trifluoromethanesulfonate | 3.63 g | FC(S(=O)(=O)OC=1C=2N(C=CC1)C(=CN2)C#C[Si](C)(C)C)(F)F | C13H13F3N2O3SSi
